US06589970B2
A solution of bromine in 50 mL glacial acetic acid was added dropwise under nitrogen over 3 h to a solution of 2-ethyl-benzofuran-3-carboxylic acid (6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide (1.5 g, 4.17 mmol), prepared in the previous step, in 150 mL glacial acetic acid at room temperature. The reaction stirred for 17 h (overnight). The solvent was removed under reduced pressure. The residue was dissolved in methylene chloride, extracted with 5% sodium bicarbonate, dried (MgSO4) and solvent removed under reduced pressure to give 2-ethyl-benzofuran-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide (1.74 g, 95%) as a brown solid, mp 176-178° C.

reactant | bromine | BrBr | Br2
reactant | 2-ethyl-benzofuran-3-carboxylic acid (6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide | 4.17 mmol, 1.5 g | OC=1C=C2C=CC(=CC2=CC1)CN(C(=O)C1=C(OC2=C1C=CC=C2)CC)C | C23H21NO3
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | 2-ethyl-benzofuran-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide | 1.74 g, 95% | BrC1=C2C=CC(=CC2=CC=C1O)CN(C(=O)C1=C(OC2=C1C=CC=C2)CC)C | C23H20BrNO3
